US06908936B2
The same procedure described in the preparation of 1-(1H-benzimidazol-2-ylmethyl)-1H-benzotriazole was used, except that 5,6-dimethylbenzotriazole was used instead of benzotriazole. 1-(1H-benzimidazol-2-ylmethyl)-5,6-dimethyl-1H-benzotriazole was isolated as an intermediate:

reactant | 1-(1H-benzimidazol-2-ylmethyl)-1H-benzotriazole | N1C(=NC2=C1C=CC=C2)CN2N=NC1=C2C=CC=C1 | C14H11N5
reactant | 5,6-dimethylbenzotriazole | CC1=CC2=C(NN=N2)C=C1C | C8H9N3
product | 1-(1H-benzimidazol-2-ylmethyl)-5,6-dimethyl-1H-benzotriazole | N1C(=NC2=C1C=CC=C2)CN2N=NC1=C2C=C(C(=C1)C)C | C16H15N5
